US05449785
To a solution of methyl 3-O-phenylcarbamoyl-b-D-xylopyranoside (73.6 g, 0.26 mole) in DMF (300 ml) was added by portions 60% NaH in oil (36.0 g, 0.9 mole). After stirring at room temperature for 30 min, benzyl bromide (113 ml, 0.95 mole) was added dropwise to the reaction mixture. After the addition was completed, the stirring was continued for 3 hr. The reaction mixture was evaporated under reduced pressure, and the oily residue was partitioned between ether (500 ml) and water (500 ml). The ether layer was dried over anhydrous sodium sulfate, evaporated to dryness under reduced pressure. The resulting amber viscous oil (150 g) was dissolved in 28% NaOMe--MeOH (750 ml) and heated under reflux for 19 hrs. The reaction mixture was evaporated to dryness under reduced pressure. The oily residue was partitioned between ether (500 ml) and water (500 ml). The ether layer was washed with water (250 ml×2), and evaporated to dryness under reduced pressure. The residue was chromatographed on silica gel using CH2Cl2 /AcOEt (95:5) as an eluent to give methyl 2,4-di-O-benzyl-b-D-xylopyranoside (80.5 g, 90% yield) as amorphous powder; EI-MS: m/z 344 (M+); 1H-NMR (CDCl3)d: 2.54 (1H,d,J=2.5 Hz), 3.21 (1H,dd,J=7.5 & 9 Hz), 3.22 (1H,dd,J=10 & 12 Hz), 3.52 (3H,s), 3.49 (1H,m), 3.68 (1H,t,J=9 Hz), 3.93 (1H,dd,J=6 & 12 Hz), 4.25 (1H,d,J=7.5 Hz), 4.63 (1H,d,J=12 Hz), 4.66 (1H,d,J=11.5 Hz), 4.75 (1H,d,J=12 Hz), 4.90 (1H,d,J=12 Hz), 7.31 (10H, br.s).

reactant | methyl 3-O-phenylcarbamoyl-b-D-xylopyranoside | 0.26 mole, 73.6 g | C1(=CC=CC=C1)NC(=O)O[C@@H]1[C@H]([C@H](OC)OC[C@H]1O)O | C13H17NO6
reactant | NaH | [H-].[Na+]
reactant | benzyl bromide | 0.95 mole, 113 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | methyl 2,4-di-O-benzyl-b-D-xylopyranoside | 80.5 g, 90% yield | C(C1=CC=CC=C1)O[C@H]1[C@H](OC)OC[C@H]([C@@H]1O)OCC1=CC=CC=C1 | C20H24O5
